US07531663B2
0.365 g (15.9 mmol) of sodium is added at 22° C. under an argon atmosphere to 45 cm3 of methanol. After complete dissolution, 1.4 g (15 mmol) of guanidine hydrochloride are added. After stirring at 22° C. for 2 hours, the reaction mixture is filtered under an argon atmosphere. The filtrate is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is dissolved in 25 cm3 of 1,2-dimethoxyethane. 1 g of 3-chlorocarbonyl-5-methyl-1-(quinol-4-yl)-1H-indole, suspended in 20 cm3 of 1,2-dimethoxyethane, is subsequently added at 22° C. under an argon atmosphere. After stirring at 22° C. for 19 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is triturated in 20 cm3 of water. After stirring at 22° C. for 1 hour, the suspension is filtered and dried to give a beige-coloured powder which is purified by flash chromatography [eluent: cyclohexane/ethyl acetate (7/3 by volume) and then dichloromethane/methanol/20% aqueous ammonia (18/3/0.5 by volume)]. After concentrating the fractions under reduced pressure (2.7 kPa), 1.1 g of a beige-coloured solid are obtained, which solid is triturated in 10 cm3 of N hydrochloric acid for 1 hour. After filtering off, the residue is recrystallised under hot conditions from 180 cm3 of methanol to give 0.66 g of 3-guanidinocarbonyl-5-methyl-1-(quinol-4-yl)-1H-indole hydrochloride in the form of pale yellow crystals melting at 268° C. (Analysis C20H17N5O.HCl; % calculated C, 63.24, H: 4.78, Cl: 9.33, N: 18.44, O: 4.21, % found C: 63.26, H: 4.72, Cl: 9.47, N: 18.57).

reactant | sodium | 15.9 mmol, 0.365 g | [Na] | Na
reactant | methanol | 45 cm3 | CO | CH4O
reactant | guanidine hydrochloride | 15 mmol, 1.4 g | Cl.NC(=N)N
reactant | 3-chlorocarbonyl-5-methyl-1-(quinol-4-yl)-1H-indole | 1 g | ClC(=O)C1=CN(C2=CC=C(C=C12)C)C1=CC=NC2=CC=CC=C12 | C19H13ClN2O
solvent | 1,2-dimethoxyethane | 25 cm3 | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 20 cm3 | COCCOC | C4H10O2
product | 3-guanidinocarbonyl-5-methyl-1-(quinol-4-yl)-1H-indole hydrochloride | 0.66 g | Cl.N(C(=N)N)C(=O)C1=CN(C2=CC=C(C=C12)C)C1=CC=NC2=CC=CC=C12 | InChI=1S/C20H17N5O.ClH/c1-12-6-7-17-14(10-12)15(19(26)24-20(21)22)11-25(17)18-8-9-23-16-5-3-2-4-13(16)18;/h2-11H,1H3,(H4,21,22,24,26);1H
